US08975282B2
Step 2) N-(2-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of 4-amino-3-fluorophenol (1.0 g, 7.87 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (2.19 g, 9.44 mmol) in CH2Cl2 (20 mL) were added EDCI (3.02 g, 15.7 mmol) and HOAT (0.21 g, 1.57 mmol). The reaction mixture was refluxed for 20 hours, and then cooled to rt. Water (10 mL) was added and the mixture stirred at rt overnight, then filtered and the filter cake was washed with water (5 mL), followed by purifying by a silica gel column chromatography (CH2Cl2/MeOH (v/v)=70/1) to give the title compound as a beige white solid (1.25 g, 46.6%).

reactant | 4-amino-3-fluorophenol | 7.87 mmol, 1.0 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 9.44 mmol, 2.19 g | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 15.7 mmol, 3.02 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 1.57 mmol, 0.21 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 10 mL | O | H2O
product | N-(2-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1.25 g, 46.6% | FC1=C(C=CC(=C1)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H16FN3O3
